US04235907
A mixture of 10 g of 2-benzoyl-1,2,3,4-tetrahydro-4-methyl-9H-pyrrolo[3,4-b]quinolin-9-one, 10 g of potassium hydroxide, 10 ml of water and 100 ml of ethanol is heated at reflux for 17 hours, cooled, diluted with 50 ml each of ether and water and filtered. The recrystallisation of the residue from methanol and ether yields 1,2,3,4-tetrahydro-4-methyl-9H-pyrrolo[3,4-b]quinolin-9-one. M.P. 209°-213° (decomposition).

reactant | 2-benzoyl-1,2,3,4-tetrahydro-4-methyl-9H-pyrrolo[3,4-b]quinolin-9-one | 10 g | C(C1=CC=CC=C1)(=O)N1CC=2N(C=3C=CC=CC3C(C2C1)=O)C | C19H16N2O2
reactant | potassium hydroxide | 10 g | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | 1,2,3,4-tetrahydro-4-methyl-9H-pyrrolo[3,4-b]quinolin-9-one | CN1C2=C(C(C=3C=CC=CC13)=O)CNC2 | C12H12N2O
